US07034039B2
To a solution of ethyl 2-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate (1.12 g, 2 mmol) in tetrahydrofuran (10 ml)-ethanol (10 ml) was added 1N sodium hydroxide (4 ml) and the mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-diisopropyl ether to give 2-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylic acid (1.02 g, 96.2%) as crystals.

reactant | ethyl 2-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate | 2 mmol, 1.12 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C(=O)OCC)=O)CC(C)C | C31H35N3O5S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylic acid | 1.02 g, 96.2% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C(=O)O)=O)CC(C)C | C29H31N3O5S
